US08975252B2
4-(Benzyloxy)-3-(3-methoxypropoxy)benzaldehyde (945 mg) and cyclopropylamine (0.44 ml) were treated in the same manner as Reference Example 1 to give N-[4-(benzyloxy)-3-(3-methoxypropoxy)benzyl]cyclopropanamine (947 mg) as a colorless oil.

reactant | 4-(Benzyloxy)-3-(3-methoxypropoxy)benzaldehyde | 945 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OCCCOC | C18H20O4
reactant | cyclopropylamine | 0.44 ml | C1(CC1)N | C3H7N
product | N-[4-(benzyloxy)-3-(3-methoxypropoxy)benzyl]cyclopropanamine | 947 mg | C(C1=CC=CC=C1)OC1=C(C=C(CNC2CC2)C=C1)OCCCOC | C21H27NO3
